US05298652
A mixture of 2.0 g (11.9 mmol) of 2,5-dihydroxybenzoic acid methyl ester, 4.55 g (13.1 mmol) of 1-bromooctadecane and 1.9 g (13.7 mmol) of potassium carbonate in 50 ml of acetone was stirred at reflux for 24 hours. The solvent was removed at reduced pressure and the residue was treated with water. The product was extracted with ethyl acetate and the dried extract was concentrated to a solid which was recrystallized from ethyl acetate-hexane to give 3.5 g (70% yield, mp 53°-54°) of 2-hydroxy-5-(octadecyloxy)benzoic acid methyl ester.

reactant | 2,5-dihydroxybenzoic acid methyl ester | 11.9 mmol, 2.0 g | COC(C1=C(C=CC(=C1)O)O)=O | C8H8O4
reactant | 1-bromooctadecane | 13.1 mmol, 4.55 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | potassium carbonate | 13.7 mmol, 1.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-hydroxy-5-(octadecyloxy)benzoic acid methyl ester | 3.5 g, 70% yield | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C26H44O4
